US06350875B1
p-Methoxypbenylethynyl trimethylsilane (K. Takashi.; F. Michiya.; E. Fumihiro.; T. Hisao; Jap. Patent 61 43,149 [86 43149], CA 106:4625 n; K. Takashi; E. Fumihiro; T. Hisao; Jap. Patent 60,217,213 [85,217,213] CA 105: 42449v)
p-Bromoanisole(3.74 g, 20 mmol), tetrakis(triphenylphosphine)palladium (1.16 g, 1 mmol) and CuI (0.381 g, 2 mmol) were placed in a 100 mL three neck round bottom flask, equipped with a pressure equalizing addition funnel and a reflux condenser which was connected to a vacuum line. The third neck of the flask was sealed with a rubber septum. The apparatus was purged with nitrogen three times. Pyridine, (30 mL) was added and the mixture was stirred until it became a single clear phase. Trimethylsilyl-acetylene (1.96 g, 20 mmol) and 20 mL of pyridine were placed in the addition funnel and the solution was added dropwise to the reaction mixture at 45° C. The reaction mixture was heated to 60° C. The progress of the reaction was monitored by TLC (silica gel with hexane/ethyl acetate). When the reaction was complete, it was extracted with ether. The organic solution was dried over anhydrous magnesium sulfate, filtered and the volatile solvents removed by evaporation under reduced pressure. The residue was purified by column chromatography (silica gel with hexane/ethyl acetate). In this way, 2.66g, 65% yield, was obtained. 1H NMR δ: 7.39(d, 2H, J=8.75 Hz), 6.80(d, 2H, J=8.75 Hz), 3.78(s, 3H), 0.23(s, 9H).

reactant | p-Bromoanisole | 20 mmol, 3.74 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | Trimethylsilyl-acetylene | 20 mmol, 1.96 g | C[Si](C)(C)C#C | C5H10Si
reactant | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
catalyst | tetrakis(triphenylphosphine)palladium | 1 mmol, 1.16 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 2 mmol, 0.381 g | [Cu]I
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | p-Methoxypbenylethynyl trimethylsilane | 65% yield | COC1=CC=C(C=C1)C#C[Si](C)(C)C | C12H16OSi
